US07674791B2
(c) 6-Bromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamine
Anhydrous ammonia was bubbled over a one-hour period into a solution of 6,8-dibromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazine (18.4 g, 0.054 mol) in dioxane (400 ml). The resulting mixture was stirred at room temperature for 2 days during which time the solution was twice recharged with ammonia by bubbling in for one hour. After concentration, diethyl ether (200 ml) was added and the resulted yellow slurry was stirred at room temperature for overnight. 6-Bromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamine was then collected and- dried (15 g, 99% yield). 1H NMR (300 MHz, CDCl3) δ 6.70 (dd, 1H), 7.10 (d, 1H), 7.8-8.0 (br m, 3H), 8.58 (s, 1H). MS: m/z: 280 [M+H]+.

reactant | ammonia | N | H3N
reactant | 6,8-dibromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazine | 0.054 mol, 18.4 g | BrC=1N=C(C=2N(C1)N=C(N2)C=2OC=CC2)Br | C9H4Br2N4O
solvent | dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 6-Bromo-2-furan-2-yl-[1,2,4]triazolo[1,5-a]pyrazin-8-ylamine | 99% yield | BrC=1N=C(C=2N(C1)N=C(N2)C=2OC=CC2)N | C9H6BrN5O
